US07544812B2
2-Methyl-3-(3-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester (Diastereomer 4)
To a solution of 3-(3-Hydroxy-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester (Isomer 2) (43 mg, 0.143 mmol,) and Toluene-4-sulfonic acid 2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester (Isomer 2) (72 mg, 0.157 mmol) in DMF (1 ml) at 23° C. is added Cs2CO3 (61 mg, 0.186 mmol) and the suspension heated at 55° C. for 7 hours. The mixture is cooled, filtered, and the filter cake washed with DMF (10 ml). The filtrate is poured into 1N HCl (35 ml) and extracted with ethyl acetate (2×20 ml). The combined organic extracts were washed with water (25 ml), brine (20 ml), dried (Na2SO4) and concentrated to an oil. Purification by flash chromatography on a Biotage silica cartridge (gradient elution, 4:1 hexanes:acetone to 1:1 hexanes:acetone) provided an oil, (72 mg, 87%) (diastereomer 4).

reactant | 3-(3-Hydroxy-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester | 0.143 mmol, 43 mg | C(C)OC(C(CC1=CC(=CC=C1)O)(OC1=CC=CC=C1)C)=O | C18H20O4
reactant | Toluene-4-sulfonic acid 2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester | 0.157 mmol, 72 mg | CN1C(N(CC1CCOS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC=C(C=C1)C(F)(F)F)=O | C21H23F3N2O4S
reactant | Cs2CO3 | 0.186 mmol, 61 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-Methyl-3-(3-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=CC=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)(OC1=CC=CC=C1)C)=O | C32H35F3N2O5
